US07273868B2
A mixture of whole amount of 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-methylsulfinylpyrimidine (prepared in the above (4)), L-prolinol 53 mg, triethylamine 53 mg and dimethylformamide 4 ml is stirred at room temperature for 1.5 hours and then at 65° C. for 3.5 hours. After cooling the reaction mixture is diluted with water and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and concentrated in vacuo. The residue is separated with silica gel chromatography (solvent; chloroform:ethyl acetate=1:2) to give 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-(2-hydroxymethyl-1-pyrrolidinyl)pyrimidine as a colorless caramel 96 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-methylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OCCOCC2=CC=CC=C2)N2CCC(CC2)O)S(=O)C)C=CC1OC | C28H33ClN4O6S
reactant | L-prolinol | 53 mg | N1[C@H](CO)CCC1 | C5H11NO
reactant | triethylamine | 53 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-(2-hydroxymethyl-1-pyrrolidinyl)pyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OCCOCC2=CC=CC=C2)N2CCC(CC2)O)N2C(CCC2)CO)C=CC1OC | C32H40ClN5O6
